US09102591B2
A solution of 4,4-difluoro-1-(2-methylpyrimidin-5-yl)cyclohexanecarboxylic acid (1.2 g, 4.68 mmol), N,O-dimethylhydroxylamine hydrochloride (456 mg, 4.68 mmol), HOBt (759.33 mg, 5.62 mmol), EDCI.HCl (1.08 g, 5.62 mmol) and DIPEA (3.23 mL, 18.73 mmol) in DMF (20 mL) was stirred at room temperature. The reaction mixture was added water and extracted with EtOAc (3×50 mL). The organic layer was washed with brine, dried over Na2SO4 and concentrated to give 4,4-difluoro-N-methoxy-N-methyl-1-(2-methylpyrimidin-5-yl)cyclohexanecarboxamide (380 mg), which was used for the next step directly. About 0.9 g of 4,4-difluoro-1-(2-methylpyrimidin-5-yl)cyclohexanecarboxylic acid was recycled.

reactant | 4,4-difluoro-1-(2-methylpyrimidin-5-yl)cyclohexanecarboxylic acid | 4.68 mmol, 1.2 g | FC1(CCC(CC1)(C(=O)O)C=1C=NC(=NC1)C)F | C12H14F2N2O2
reactant | N,O-dimethylhydroxylamine hydrochloride | 4.68 mmol, 456 mg | Cl.CNOC
reactant | HOBt | 5.62 mmol, 759.33 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 5.62 mmol, 1.08 g | CCN=C=NCCCN(C)C.Cl
reactant | DIPEA | 18.73 mmol, 3.23 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4,4-difluoro-N-methoxy-N-methyl-1-(2-methylpyrimidin-5-yl)cyclohexanecarboxamide | 380 mg | FC1(CCC(CC1)(C(=O)N(C)OC)C=1C=NC(=NC1)C)F | C14H19F2N3O2
